US08980877B2
(±)-(E)-3-[1′-Methyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid methyl ester (105 mg, 0.35 mmol) was hydrolyzed with HCl and AcOH following the procedure described in Example 1, Step A, giving (±)-(E)-3-[1′-methyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid (110 mg, 0.34 mmol, 98%) as a white solid (hydrochloride salt). The acid was treated with NH2OTHP according to the procedure described in Example 1, Step C, to give (E)-3-[1′-methyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (90 mg, 0.23 mmol, 68%). Finally, removal of THP protecting group following the procedure described in Example 2, Step D and purification by preparative HPLC gave (±)-(E)-3-[1′-methyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-N-hydroxy acrylamide (30.5 mg, 31%) as its trifluoroacetic salt.

reactant | (±)-(E)-3-[1′-Methyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid methyl ester | 0.35 mmol, 105 mg | COC(\C=C\C=1C=C2C(CC3(CN(CC3)C)OC2=CC1)=O)=O | C17H19NO4
reactant | HCl | Cl | ClH
solvent | AcOH | CC(=O)O | C2H4O2
product | (±)-(E)-3-[1′-methyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid | 0.34 mmol, 110 mg, 98% | CN1CC2(CC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C16H17NO4
